US06100260
1-{3-[1-(2-Fluoro-biphenyl-4-yl)-ethyl]-isoxazol-5-yl}-2-methyl-isothiourea
3-[1-(2-Fluoro-biphenyl-4-yl)-ethyl]-isoxazol-5-yl-thiourea (Japanese Patent Unexamined Publication No. 63-152368) (3.03 g) was dissolved in N,N-dimethylformamide (90 ml), followed by adding thereto methyl iodide (1.51 g) and potassium carbonate (0.86 g), and the resulting mixture was stirred at 40° C. for 2 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate, and the extract solution was washed with water and dried. The solvent was distilled off under reduced pressure and the residue was purified by a silica gel column chromatography to obtain the desired compound (2.67 g).

reactant | 3-[1-(2-Fluoro-biphenyl-4-yl)-ethyl]-isoxazol-5-yl-thiourea | FC1=C(C=CC(=C1)C(C)C1=NOC(=C1)NC(=S)N)C1=CC=CC=C1 | C18H16FN3OS
reactant | methyl iodide | 1.51 g | CI | CH3I
reactant | potassium carbonate | 0.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 1-{3-[1-(2-Fluoro-biphenyl-4-yl)-ethyl]-isoxazol-5-yl}-2-methyl-isothiourea | 2.67 g | FC1=C(C=CC(=C1)C(C)C1=NOC(=C1)NC(SC)=N)C1=CC=CC=C1 | C19H18FN3OS
